US08609680B2
Preparation of 5-(4-Methyl-pyrimidin-2-yl)-indan-1-one (SM-1e)
To a 25 mL flask containing 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indan-1-one (SM-1a, 50.0 mg, 0.19 mmol) was added 2-bromo-4-methyl pyrimidine (33.6 mg, 0.16 mmol) and sodium carbonate (23 mg, 0.76 mmol). The mixture was dissolved in 2 mL DME and 0.5 mL water. The mixture was purged with nitrogen for 15 minutes. Pd(dppf)Cl2 (2.9 mg, 5 mol %) was added and the solution was degassed for an additional 15 minutes. The reaction was heated under reflux for 16 hours. The reaction was concentrated to dryness and was partitioned between ethyl acetate and water. The water layer was extracted with ethyl acetate and the combined organic layers were washed twice with water and once with brine. The solution was dried over anhydrous sodium sulfate, filtered and concentrated. The final product was purified by silica chromatography on a Combiflash ISCO purification system (Teledyne Corp., Lincoln, Nebr.) eluting with 0-50% ethyl acetate in heptanes. The product was obtained as a white solid (SM-1e, 8.7 mg, 20%). MS (ES+) 225.2 (M+H+). 1H NMR (CDCl3) δ 2.61 (s, 3H), 2.74-2.78 (m, 2H), 3.20 (t, 2H), 7.15 (d, 1H), 7.85 (d, 1H), 8.53 (d, 1H), 8.59 (s, 1H), 8.75 (d, 1H).

reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indan-1-one | 0.19 mmol, 50.0 mg | CC1(OB(OC1(C)C)C=1C=C2CCC(C2=CC1)=O)C | C15H19BO3
reactant | 2-bromo-4-methyl pyrimidine | 0.16 mmol, 33.6 mg | BrC1=NC=CC(=N1)C | C5H5BrN2
reactant | sodium carbonate | 0.76 mmol, 23 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | water | 0.5 mL | O | H2O
product | 5-(4-Methyl-pyrimidin-2-yl)-indan-1-one | CC1=NC(=NC=C1)C=1C=C2CCC(C2=CC1)=O | C14H12N2O
